US09193693B2
Step 1. tert-Butyl 4-(3-(trifluoromethyl)pyridin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate
Into a 20 mL sealed tube was placed 2-chloro-3-(trifluoromethyl)pyridine (500 mg, 2.76 mmol, 1.00 equiv), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (1.705 g, 5.52 mmol, 2.00 equiv), PCy3 (216.4 mg, 0.77 mmol, 0.28 equiv), Pd2(dba)3 (304.7 mg, 0.33 mmol, 0.12 equiv), NaOt-Bu (828 mg, 8.28 mmol, 3.00 equiv), dioxane (8 mL). The resulting solution was stirred overnight at 100° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with PE/EA (10:1). This resulted in 449.3 mg (46%) of tert-butyl 4-(3-(trifluoromethyl)pyridin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate as yellow oil.

reactant | 2-chloro-3-(trifluoromethyl)pyridine | 2.76 mmol, 500 mg, 1.00 equiv | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 5.52 mmol, 1.705 g, 2.00 equiv | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | PCy3 | 0.77 mmol, 216.4 mg, 0.28 equiv | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | NaOt-Bu | 8.28 mmol, 828 mg, 3.00 equiv | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 0.33 mmol, 304.7 mg, 0.12 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 4-(3-(trifluoromethyl)pyridin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | FC(C=1C(=NC=CC1)C1=CCN(CC1)C(=O)OC(C)(C)C)(F)F | C16H19F3N2O2
